US04941909
In an analogous manner, starting from 2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-pentafluoroethyl-1(2H)-pyrimidinyl]-4-fluorobenzoic acid via its acid chloride and tetrahydrofuran-3-ol there is obtained 3-tetrahydrofuryl 2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-pentafluoroethyl-1(2H)-pyrimidinyl]-4-fluorobenzoate, 1H-NMR (D6 -DMSO, 400 MHz): 2.00-2.09 (m, 1H), 2.20-2.32 (m,1H), 3.43 (s,3H), 3.74-3.92 (m,4H), 5.48-5.56 (m,1H), 6.50 (s,1H), 7.89 (d,1H), 8.08 (d,1H);

reactant | 2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-pentafluoroethyl-1(2H)-pyrimidinyl]-4-fluorobenzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(C(F)(F)F)(F)F)C)=O | C14H7ClF6N2O4
reactant | tetrahydrofuran-3-ol | O1CC(CC1)O | C4H8O2
product | 3-tetrahydrofuryl 2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-pentafluoroethyl-1(2H)-pyrimidinyl]-4-fluorobenzoate | ClC1=C(C(=O)OC2COCC2)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(C(F)(F)F)(F)F)C)=O | C18H13ClF6N2O5
